US04824951
2-[(3-Nitro-2-pyridinyl)amino]acetamide
A mixture of 2-chloro-3-nitropyridine (1.0 g, 0.0063 mole), glycinamide hydrochloride (3.11 g, 0.028 mole), triethylamine (3.1 g, 0.031 mole) in 35 ml of acetonitrile was heated at reflux for 161/2 hours. The yellow precipitate was filtered off. The precipitate was slurried and filtered successively with water, absolute alcohol and acetone. The yellow solid was dried under high vacuum at room temperature to give 0.9 g (73.2%), of title compound, m.p. 250°-51° C. with decomposition.

reactant | 2-chloro-3-nitropyridine | 0.0063 mole, 1.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | glycinamide hydrochloride | 0.028 mole, 3.11 g | Cl.NCC(=O)N
reactant | triethylamine | 0.031 mole, 3.1 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 2-[(3-Nitro-2-pyridinyl)amino]acetamide | [N+](=O)([O-])C=1C(=NC=CC1)NCC(=O)N | C7H8N4O3
